US04178308
It is known from FIAT Final Report No. 1,016, page 32 to 39, that H-acid can be prepared as follows: naphthalene is reacted with sulphuric acid monohydrate (=100% strength H2SO4) and 65% strength oleum, a particular temperature programme being maintained and sulphuric acid monohydrate and oleum being added stepwise, to give a naphthalene-trisulphonic acid isomer mixture, which is nitrated with mixed acid. After diluting with water, driving off the nitrous gases and separating off the sulphuric acid in the form of calcium sulphate, the isomer mixture of nitronaphthalene-trisulphonic acids is reduced with iron, and dissolved iron salts are then precipitated with magnesium oxide and separated off. The acid calcium sodium salt of T-acid (1-naphthylamine-3,6,8-trisulphonic acid) is precipitated by adding rock salt and hydrochloric acid and is filtered off and washed several times. This salt of T-acid is introduced into the wash water and sodium carbonate is added. The chalk which has precipitated is then pressed out and the salt solution is concentrated. The concentrated solution of the trisodium salt of T-acid is reacted with 50% strength sodium hydroxide solution under pressure. Thereafter, first sulphonic acid and then water are added and the H-acid is finally isolated, as the monosodium salt, by filtration, washing and drying.

reactant | H-acid | C1=C2C=C(C=C(C2=C(C=C1S(=O)(=O)O)N)O)S(=O)(=O)O | C10H9NO7S2
reactant | naphthalene | C1=CC=CC2=CC=CC=C12 | C10H8
reactant | sulphuric acid monohydrate | O.S(O)(O)(=O)=O
reactant | oleum | OS(=O)(=O)O.O=S(=O)=O
product | naphthalene-trisulphonic acid | C1(=C(C(=CC2=CC=CC=C12)S(=O)(=O)O)S(=O)(=O)O)S(=O)(=O)O | C10H8O9S3
